US05175166
1,4,5,6-Tetrahydro-5-methoxycarbonylpyrimidine Hydrobromide
5-Methoxycarbonylpyrimidine (1.381 g, 10 mmol) in 143 ml 0.07158M HBr was hydrogenated at 26 psig over 600 mg Pd-on-carbon 10% in a Parr hydrogenator for three hours. The suspension was filtered and the filter rinsed twice with hot water (10 ml). The filtrate was evaporated in vacuo to give 1.86 g yellow oil (83%). The oil was crystallized from anhydrous ethanol/THF, and the hygroscopic crystals collected by decanting the solvents under a stream of nitrogen. Excess solvents were removed under vacuum in a drying pistol to yield 1.01 g (45%) white crystals mp 149°-153° C. (with the evolution of gas). Microanalysis calc.: C 32.3, H 4.97, N 12.56; found: C 32.12, H 5.15, N 12.34. 400 MHz nmr indicated product.

reactant | 5-Methoxycarbonylpyrimidine | 10 mmol, 1.381 g | COC(=O)C=1C=NC=NC1 | C6H6N2O2
reactant | HBr | 0.07158M, 143 ml | Br | BrH
product | 1,4,5,6-Tetrahydro-5-methoxycarbonylpyrimidine Hydrobromide | 1.86 g, 83% | Br.COC(=O)C1CN=CNC1 | InChI=1S/C6H10N2O2.BrH/c1-10-6(9)5-2-7-4-8-3-5;/h4-5H,2-3H2,1H3,(H,7,8);1H
